US05043142
Next, 3.74 g (18.0 mmol) of 3,6,9,12-tetraoxa-1-tridecanol was added to a solution of 1.92 g (48.0 mmol) of sodium hydride contained at 60% in mineral oil in dry dimethylformamide (65 ml) in the atmosphere of argon, and the mixture was allowed to react at 40°-50° C. for 30 min. Then, to the reaction mixture was added 2.57 g (7.49 mmol) of 3,4-bis(bromomethyl)-1-bromobenzene, and the mixture was reacted at room temperature for 19 hours. To the reaction mixture at 0° C. was added a saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane yielded 3.08 g (5.16 mmol) of 3,4-bis(2,5,8,11,14-pentaoxapentadecanyl)-1-bromobenzene.

reactant | 3,6,9,12-tetraoxa-1-tridecanol | 18.0 mmol, 3.74 g | C(COCCOCCOCCOC)O | C9H20O5
reactant | sodium hydride | 48.0 mmol, 1.92 g | [H-].[Na+]
reactant | 3,4-bis(bromomethyl)-1-bromobenzene | 7.49 mmol, 2.57 g | BrCC=1C=C(C=CC1CBr)Br | C8H7Br3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 3,4-bis(2,5,8,11,14-pentaoxapentadecanyl)-1-bromobenzene | 5.16 mmol, 3.08 g | C(OCCOCCOCCOCCOC)C=1C=C(C=CC1COCCOCCOCCOCCOC)Br | C26H45BrO10
